US08008487B2
Preparation of 1-[(6-methoxypyridin-3-yl)oxy]acetone (Compound 181)
A solution of chloroacetone (3.7 g) and potassium iodide (65 mg) in acetone (7 mL) was stirred at approximately 25° C. overnight. In a second reactor, 6-methoxypyridin-3-ol (4.0 g, mmol) and potassium carbonate (1.3 g, 10 mmol) in acetone (5 mL) was refluxed for 15 min., then ¼ of chloroacetone/KI solution was added followed by additional potassium carbonate (1.3 g). This was repeated three times more, then the reaction stirred at approximately 25° C. overnight. The mixture was concentrated in vacuo. The residue was dissolved in Et2O and washed with H2O, brine and dried with Na2SO4. The solution was filtered and concentrated in vacuo yielding 3.5 g of clear oil that was used without further purification. This material darkened on standing over time.

reactant | chloroacetone | 3.7 g | ClCC(C)=O | C3H5ClO
reactant | 6-methoxypyridin-3-ol | 4.0 g | COC1=CC=C(C=N1)O | C6H7NO2
reactant | potassium carbonate | 10 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 7 mL | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
catalyst | potassium iodide | 65 mg | [I-].[K+]
product | 1-[(6-methoxypyridin-3-yl)oxy]acetone | 3.5 g | COC1=CC=C(C=N1)OCC(=O)C | C9H11NO3
